US05728835
4-Methoxy-N-(3-methoxyphenyl)benzenesulfonamide
Using m-anisidine (0.99 ml, 8.55 mmol) and 4-methoxybenzenesulfonyl chloride (1.78 g, 8.55 mmol), the procedure of Reference Example 2 was repeated to obtain 2.50 g (99.7%) of the title compound in the form of light yellow oil.

reactant | m-anisidine | 8.55 mmol, 0.99 ml | COC1=CC(=CC=C1)N | C7H9NO
reactant | 4-methoxybenzenesulfonyl chloride | 8.55 mmol, 1.78 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
product | 4-Methoxy-N-(3-methoxyphenyl)benzenesulfonamide | 2.50 g, 99.7% | COC1=CC=C(C=C1)S(=O)(=O)NC1=CC(=CC=C1)OC | C14H15NO4S
